US07572809B2
Similar procedure as described in example 9B was used, starting from 2-Cyanomethyl-5-fluoro-4-methoxy-benzoic acid (1.75 g), 3-amino-5-cyclopropylpyrazol, to give 3-(5-Cyclopropyl-1H-pyrazol-3-ylamino)-7-fluoro-6-methoxy-isoquinolin-1-ol. LC-MS: m/e 315 (MH+).

reactant | 2-Cyanomethyl-5-fluoro-4-methoxy-benzoic acid | 1.75 g | C(#N)CC1=C(C(=O)O)C=C(C(=C1)OC)F | C10H8FNO3
reactant | 3-amino-5-cyclopropylpyrazol | NC1=NNC(=C1)C1CC1 | C6H9N3
product | 3-(5-Cyclopropyl-1H-pyrazol-3-ylamino)-7-fluoro-6-methoxy-isoquinolin-1-ol | C1(CC1)C1=CC(=NN1)NC=1N=C(C2=CC(=C(C=C2C1)OC)F)O | C16H15FN4O2
